US07105554B2
3-Hydroxy-4-(2-phenylethoxy)-benzaldehyde
(2-Bromoethyl)benzene (20 mL, 0.14 mol, 2 eq) was added to a stirred solution of 3,4-dihydroxybenzaldehyde (10 g, 0.072 mol, 1 eq), tetra-n-butylammonium iodide (27 g, 0.072 mol, 1 eq) and cesium carbonate (14.2 g, 0.043 mol, 0.6 eq) in N,N-dimethylformamide (50 mL). The solution was stirred overnight, then concentrated in vacuo and diluted with ethyl acetate (200 mL). The organic solution was washed with 1M HCl (2×200 mL), and brine (200 mL), dried over sodium sulfate and evaporated. The residue was purified by chromatography on silica gel, eluting with toluene:ethyl acetate (19:1). This gave the product as a colourless oil which crystallized on standing (2.71 g, 15%). RF (toluene:ethyl acetate, 9:1) 0.31. 1H NMR (CDCl3) δ 9.84 (s, 1H, O═C—H), 6.96 (d, 1H, J 8.3 Hz, ArH), 5.64 (s, 1H, OH), 4.36 (t, 2H, J 7.2 Hz, OCH2CH2Ph), 3.17 (t, 2H, J 7.2 Hz, OCH2CH2Ph).

reactant | (2-Bromoethyl)benzene | 0.14 mol, 20 mL, 2 eq | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 3,4-dihydroxybenzaldehyde | 0.072 mol, 10 g, 1 eq | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | cesium carbonate | 0.043 mol, 14.2 g, 0.6 eq | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tetra-n-butylammonium iodide | 0.072 mol, 27 g, 1 eq | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Hydroxy-4-(2-phenylethoxy)-benzaldehyde | OC=1C=C(C=O)C=CC1OCCC1=CC=CC=C1 | C15H14O3
